US07332495B2
IV-24 N1-[1-(4-fluorophenyl)ethyl]-N4-phenacyl piperazine dihydrochloride
A mixture of N-phenacyl piperazine dihydrochloride (1.39 g, 5 mmol), 1-(1-chloroethyl)-4-fluorobenzene (0.95 g, 6 mmol) and K2CO3 (2.42 g, 17.5 mmol) in 40 ml of acetone was treated according to general preparation 2 to give 1.25 g of compound (IV-24), yield 61%. M+ 326.

reactant | N-phenacyl piperazine dihydrochloride | 5 mmol, 1.39 g | Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCNCC1
reactant | 1-(1-chloroethyl)-4-fluorobenzene | 6 mmol, 0.95 g | ClC(C)C1=CC=C(C=C1)F | C8H8ClF
reactant | K2CO3 | 17.5 mmol, 2.42 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | N1-[1-(4-fluorophenyl)ethyl]-N4-phenacyl piperazine dihydrochloride | 1.25 g, yield 61% | Cl.Cl.FC1=CC=C(C=C1)C(C)N1CCN(CC1)CC(=O)C1=CC=CC=C1 | InChI=1S/C20H23FN2O.2ClH/c1-16(17-7-9-19(21)10-8-17)23-13-11-22(12-14-23)15-20(24)18-5-3-2-4-6-18;;/h2-10,16H,11-15H2,1H3;2*1H
